US09120749B2
(6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((6-(3-(methylamino)pyrrolidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)(cyclopropyl)methanone trihydrochloride
To a suspension of tert-butyl (1-(5-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate (88 mg, 0.155 mmol), 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol (68 mg, 0.25 mmol) and Pd(dppf)Cl2 (11 mg, 0.015 mmol) in dioxane (4 mL) was added Cs2CO3 (1.0 M in H2O, 0.4 mL, 0.4 mmol). N2 gas was bubbled through the reaction mixture and the mixture was then heated at 80° C. for 2 h. The solution was allowed to cool to room temperature, diluted with a saturated NaHCO3 solution and extracted with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate and concentrated. Purification by column chromatography (silica, 0-20% methanol/dichloromethane) afforded a brown solid. This solid was dissolved in TI-IF (3 mL) and TFA (2 mL). The reaction mixture was heated at 65° C. for 16 h, cooled to room temperature and concentrated. The resultant residue was purified by preparative HPLC (C18 silica, 10-90% acetonitrile/water with 0.05% TFA). The residue was dissolved in methanol (8 mL) and HCl (6 M in water, 1.0 mL, 6 mmol) was added. The resultant solution was concentrated to give the desired product (46.5 mg, 47%) as an orange solid. 1H NMR (500 MHz, MeOD) δ 9.34 (s, 1H), 8.36 (s, 1H), 8.31 (dd, J=8.8, 1.9 Hz, 1H), 8.24 (d, J=2.5 Hz, 1H), 8.08 (d, J=8.8 Hz, 1H), 8.02-7.95 (m, 1H), 7.41-7.33 (m, 2H), 7.20 (dd, J=9.6, 2.5 Hz, 1H), 4.17-4.07 (m, 2H), 3.99-3.88 (ddd, J=m, 2H), 3.85-3.76 (m, 1H), 2.84 (s, 3H), 2.83-2.75 (m, 1H), 2.72-2.61 (m, 1H), 2.49-2.38 (m, 1H), 1.24-1.12 (m, 4H). ESI MS m/z 532 [C29H27ClFN5O2+H]+; HPLC 98.8% (AUC), tR=10.10 min.

reactant | tert-butyl (1-(5-((6-bromo-3-(cyclopropanecarbonyl)quinolin-4-yl)amino)pyridin-2-yl)pyrrolidin-3-yl)(methyl)carbamate | 0.155 mmol, 88 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=CC(=NC1)N1CC(CC1)N(C(OC(C)(C)C)=O)C | C28H32BrN5O3
reactant | 2,6-dichloro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenol | 0.25 mmol, 68 mg | ClC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)Cl)O | C12H15BCl2O3
reactant | Cs2CO3 | 0.4 mmol, 1.0 M, 0.4 mL | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | HCl | 6 mmol, 6 M, 1.0 mL | Cl | ClH
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)Cl2 | 0.015 mmol, 11 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | (6-(3-chloro-5-fluoro-4-hydroxyphenyl)-4-((6-(3-(methylamino)pyrrolidin-1-yl)pyridin-3-yl)amino)quinolin-3-yl)(cyclopropyl)methanone trihydrochloride | 46.5 mg, 47% | Cl.Cl.Cl.ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC=1C=NC(=CC1)N1CC(CC1)NC | InChI=1S/C29H27ClFN5O2.3ClH/c1-32-20-8-9-36(15-20)26-7-5-19(13-34-26)35-27-21-10-17(18-11-23(30)29(38)24(31)12-18)4-6-25(21)33-14-22(27)28(37)16-2-3-16;;;/h4-7,10-14,16,20,32,38H,2-3,8-9,15H2,1H3,(H,33,35);3*1H
